US04360675
1-Acetyl-2,2,6,6-tetramethyl-4 -piperidyl vinyl ether
40 g of 2,2,6,6-tetramethyl-4-piperidyl vinyl ether were dissolved in 270 ml of dry pyridine and 200 ml of acetic anhydride were added. The mixture was warmed slowly and finally was refluxed for 36 hours. The volatile constituents were evaporated off under a water pump vacuum on a boiling water bath and the residue was distilled under a high vacuum. Boiling point 88°/0.1 mm Hg.

reactant | 2,2,6,6-tetramethyl-4-piperidyl vinyl ether | 40 g | C(=C)OC1CC(NC(C1)(C)C)(C)C | C11H21NO
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 270 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-2,2,6,6-tetramethyl-4 -piperidyl vinyl ether | C(=C)OC1CC(N(C(C1)(C)C)C(C)=O)(C)C | C13H23NO2
